US05470882
b) 2-(2-Nitro-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid, ammonium salt
Fuming sulfuric acid (8 mililiter (hereinafter mL) was cooled to -20° C. and 2-(2-nitro-4-trifluoromethyl-phenoxy)-4,5-dichlorobenzene (8 g, 22.8 mmol) in methylene chloride (8 mL) was added to the solution. The mixture was stirred for 15 min and then quenched in ice. Extraction with ethyl acetate followed by flash chromatography (silica gel, methylene chloride/isopropanol/ammonium hydroxide) gave the title compound. 1H NMR (400 MHz, CD3OD) δ8.31 (d, 1H), 8.11 (s, 1H), 7.87 (dd, 1H), 7.4 (s, 1H), 7.16 (d, 1H).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-(2-nitro-4-trifluoromethyl-phenoxy)-4,5-dichlorobenzene | 22.8 mmol, 8 g | [N+](=O)([O-])C1=C(OC2=CC=C(C(=C2)Cl)Cl)C=CC(=C1)C(F)(F)F | C13H6Cl2F3NO3
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Nitro-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid, ammonium salt | [NH4+].[N+](=O)([O-])C1=C(OC2=C(C=C(C(=C2)Cl)Cl)S(=O)(=O)[O-])C=CC(=C1)C(F)(F)F | InChI=1S/C13H6Cl2F3NO6S.H3N/c14-7-4-11(12(5-8(7)15)26(22,23)24)25-10-2-1-6(13(16,17)18)3-9(10)19(20)21;/h1-5H,(H,22,23,24);1H3
